US06759554B2
N-(4-Dimethylaminophenyl)-1,2-trans-cyclohexanediamine
An oven-dried resealable Schlenk tube was charged with CuI (190 mg, 0.998 mmol), K3PO4 (2.10 g, 9.89 mmol), 4-bromo-N,N-dimethylaniline (1.00 g, 5.00 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (0.60 L, 5.00 mmol) and dioxane (3.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 70 h. The resulting dark brown suspension was cooled to room temperature and filtered through a 2×1 cm pad of Celite eluting with 50 mL of dichloromethane. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; dichloromethane saturated with aq NH3-methanol 40:1; 20 mL fractions). Fractions 12-16 provided 692 mg (59% yield) of the product as a brown solid. 1H NMR (400 MHz, CDCl3): δ 6.75−6.63 (m, 4H), 3.00 (br s, 1H), 2.87−2.77 (m, 7H), 2.53−2.45 (m, 1H), 2.17−2.04 (m, 1H), 2.02−1.94 (m, 1H), 1.78−1.16 (m, 7H), 1.04−0.92 (m, 1H). 13C NMR (100 MHz, CDCl3) δ 144.7, 140.9, 116.2, 116.1, 62.0, 56.5, 42.6, 35.7, 33.0, 25.8, 25.5.

reactant | K3PO4 | 9.89 mmol, 2.10 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-bromo-N,N-dimethylaniline | 5.00 mmol, 1.00 g | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | trans-1,2-Cyclohexanediamine | 5.00 mmol, 0.60 L | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
catalyst | CuI | 0.998 mmol, 190 mg | [Cu]I
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | N-(4-Dimethylaminophenyl)-1,2-trans-cyclohexanediamine | 692 mg, 59% yield | CN(C1=CC=C(C=C1)N[C@H]1[C@@H](CCCC1)N)C | C14H23N3
